US04244957
5.51 g. of ethyl 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyrate, 200 mg. of sodium methylate and methanolic ammonia are warmed under pressure for 24 hours. The solution is then evaporated in vacuo. The residue is recrystallized from methylene chloride/diethyl ether and then from benzene/cyclohexane (1:1), whereupon 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyramide, m.p. 140°-141°, is obtained.

reactant | ethyl 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyrate | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCCCC(=O)OCC | C15H19Cl2N3O3
reactant | sodium methylate | C[O-].[Na+]
reactant | ammonia | N | H3N
product | 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyramide | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCCCC(=O)N | C13H16Cl2N4O2
